US04304770
A mixture of ethyl 2-(2-benzoyloxyethoxyimino)-2-(2-aminothiazol-4-yl)acetate (syn isomer) (8.5 g.), 1 N aqueous sodium hydroxide (35 ml.), methanol (40 ml.) and tetrahydrofuran (40 ml.) was stirred at 35° to 40° C. for 9 hours and at ambient temperature for 12 hours. After adjusting the resultant solution to pH 6.5 with conc. hydrochloric acid, the solution was concentrated to about 2/3 volume of the initial. The concentrate was adjusted to pH 3.5 with conc. hydrochloric acid under ice-cooling, and the precipitates were collected by filtration, washed with water and acetone in turn and then dried over phosphorus pentoxide under reduced pressure to give 2-(2-hydroxyethoxyimino)-2-(2-aminothiazol-4-yl)acetic acid (syn isomer) (3.3 g.).

reactant | ethyl 2-(2-benzoyloxyethoxyimino)-2-(2-aminothiazol-4-yl)acetate | 8.5 g | C(C1=CC=CC=C1)(=O)OCCON=C(C(=O)OCC)C=1N=C(SC1)N | C16H17N3O5S
reactant | sodium hydroxide | 1 N, 35 ml | [OH-].[Na+]
reactant | methanol | 40 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(2-hydroxyethoxyimino)-2-(2-aminothiazol-4-yl)acetic acid | 3.3 g | OCCON=C(C(=O)O)C=1N=C(SC1)N | C7H9N3O4S
